US04336261
(a) 3-(1,1-dimethyl-3-phenylpropylamino)-1,2-dihydroxypropane
To 1,1-dimethyl-3-phenylpropylamine (3.6 g., 22 mmole) in 20 ml. 2-propanol at 50° C. in an oil bath was added glycidol (1.7 g., 23 mmole) in 10 ml. 2-propanol dropwise over 5-10 min. The mixture was heated at 75° C. for 2 hours. After evaporation of the solvent, vacuum distillation provided 3.9 g. (75%) of 3-(1,1-dimethyl-3-phenylpropylamino)-1,2-dihydroxypropane (bp 160°-180°/0.5 mm which crystallized upon standing (mp 74°-77° C.).

reactant | 1,1-dimethyl-3-phenylpropylamine | 22 mmole, 3.6 g | CC(CCC1=CC=CC=C1)(C)N | C11H17N
reactant | glycidol | 23 mmole, 1.7 g | C1C(O1)CO | C3H6O2
solvent | 2-propanol | CC(C)O | C3H8O
product | 3-(1,1-dimethyl-3-phenylpropylamino)-1,2-dihydroxypropane | CC(CCC1=CC=CC=C1)(C)NCC(CO)O | C14H23NO2
